US08034812B2
Production of N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide
A mixture of N-{3-[(2-acetamidoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide (2.20 g, 4.86 mmol), 4N hydrochloric acid-ethyl acetate solution (35 mL) and methanol (35 mL) was stirred at room temperature for 14 hr. The reaction mixture was neutralized by the addition of 8N aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was washed with diisopropyl ether to give the title compound (1.63 g, 82%) as a yellow powder.

reactant | N-{3-[(2-acetamidoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide | 4.86 mmol, 2.20 g | C(C)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C2(CC2)C#N)=O)C1 | C25H20N6O3
reactant | hydrochloric acid ethyl acetate | 4N, 35 mL | Cl.C(C)(=O)OCC
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | methanol | 35 mL | CO | CH4O
product | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide | 1.63 g, 82% | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C2(CC2)C#N)=O)C1 | C23H18N6O2
